US05312616
Cesium carbonate (1.63 g, 5.0 mmol) and 2-bromohexane (2.0 ml, 16 mmol) were added to a flask containing a stirred mixture of 2,3,5,6-tetraiodoterephthalate acid (1.4 g, 2.0 mmol) and dry DMF (20 ml). The reaction flask was immersed in an oil bath which was warmed to 76° C. over a period of 0.5 hr. After stirring under an atmosphere of N2 for 22 hrs, the reaction was allowed to cool, diluted with DMF, filtered through a pad of celite and evaporated in vacuo. The resulting residue was taken up into EtOAc (200 ml), washed with saturated aqueous sodium bicarbonate (2×50 ml), water (50 ml) and brine (50 ml), dried (Na2SO4), filtered and evaporated in vacuo. Flash column chromatography (silica, 1:19; Et2O:hexanes) provided bis (2-hexyl) 2,3,5,6-tetraiodoterephthalate (0.52 g, 44%) as a light yellow solid. Mp 114°-115° C.

reactant | Cesium carbonate | 5.0 mmol, 1.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromohexane | 16 mmol, 2.0 ml | BrC(C)CCCC | C6H13Br
reactant | 2,3,5,6-tetraiodoterephthalate | 2.0 mmol, 1.4 g | IC1=C(C(=O)[O-])C(=C(C(=C1I)C(=O)[O-])I)I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | bis (2-hexyl) 2,3,5,6-tetraiodoterephthalate | 0.52 g, 44% | IC1=C(C(=O)OC(C)CCCC)C(=C(C(=C1I)C(=O)OC(C)CCCC)I)I | C20H26I4O4
